US05356886
A solution of (E)-9-[2-hydroxymethyl-4-(diisopropoxyphosphoryl)but-3-enyl]adenine (107 mg, 280 μmol) and bromotrimethylsilane (0.86 g, 5.61 mmol) in N,N-dimethylformamide (5 ml) was stirred at room temperature under dry nitrogen for 18 h. The solvent was removed and the residue azetroped with methanol (×3). The residue was purified by column chromatography on reverse phase silica gel eluting with water to give (E)-9-(2-hydroxymethyl-4-phosphonobut-3-enyl)adenine as a white solid (34 mg, 40%), m.p. >300° C.; λmax (MeOH) 262 (10,704)nm; υmax (KBr) 3435, 1695, 1640, 1415, 1263, 1229 and 1030 cm-1 ; δH [(CD3)2SO/D2O] 2.73 (1H, m, CH), 3.37 (2H, d, J 6 Hz, CH2O), 4.13 (1H, dd, J 7 Hz and 14 Hz, CH2N), 4.30 (1H, dd, J 7 Hz and 14 Hz, CH2N), 5.65 (1H, pseudo-t, J 17 Hz, PCH=CH), 6.06 (1H, ddd, J 8Hz, 19 Hz, PCH=CH), 8.10 (1H, s, H-2/H-8), 8.17 (1H, s, H-2/H-8); FABMS (thioglycerol) 300 (MH+) (Found: C, 37.83; H, 4.83; N, 21.75%. C10H14N5O4P.H2O requires C, 37.86; H, 5.08; N, 22.07%).

reactant | (E)-9-[2-hydroxymethyl-4-(diisopropoxyphosphoryl)but-3-enyl]adenine | 280 μmol, 107 mg | OCC(CN1C2=NC=NC(=C2N=C1)N)\C=C\P(=O)(OC(C)C)OC(C)C | C16H26N5O4P
reactant | bromotrimethylsilane | 5.61 mmol, 0.86 g | Br[Si](C)(C)C | C3H9BrSi
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (E)-9-(2-hydroxymethyl-4-phosphonobut-3-enyl)adenine | 34 mg, 40% | OCC(CN1C2=NC=NC(=C2N=C1)N)\C=C\P(=O)(O)O | C10H14N5O4P
